US08877782B2
6-[3-(4-Chloro-phenyl)-isoxazol-4-ylmethoxy]-N-(3-hydroxy-2,2-dimethyl-propyl)-nicotinamide
As described for example 346b, 6-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid (200 mg, 0.6 mmol) was converted, using 3-amino-2,2-dimethyl-1-propanol instead of ethanolamine, to the title compound (150 mg, 60%) which was obtained as a white solid. MS: m/e=414.1 [M−H]−.

reactant | 6-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid | 0.6 mmol, 200 mg | ClC1=CC=C(C=C1)C1=NOC=C1COC1=NC=C(C(=O)O)C=C1 | C16H11ClN2O4
reactant | 3-amino-2,2-dimethyl-1-propanol | NCC(CO)(C)C | C5H13NO
product | 6-[3-(4-Chloro-phenyl)-isoxazol-4-ylmethoxy]-N-(3-hydroxy-2,2-dimethyl-propyl)-nicotinamide | 150 mg, 60% | ClC1=CC=C(C=C1)C1=NOC=C1COC1=NC=C(C(=O)NCC(CO)(C)C)C=C1 | C21H22ClN3O4
